US08012976B2
A mixture of methyl 4-oxo-2,3-di(pyridin-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate and ethyl 4-oxo-2,3-di(pyridin-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (68 mg, 0.19 mmol) in hydrazine monohydrate (7 mL) was heated to reflux for 4 hr. Then the mixture was cooled to room temperature and solvent was removed in vacuum to give crude product. The crude product was purified by pre-HPLC to give 8,9-di(pyridin-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (24 mg, yield 37%) as a light yellow solid. 1H-NMR (400 MHz, DMSO) δ 5.42-5.43 (d, J=5.2 Hz, 1H), 5.56-5.57 (d, J=5.2 Hz, 1H), 7.30-7.32 (d, J=8.0 Hz, 1H), 7.37-7.39 (d, J=8.0 Hz, 1H), 7.63-7.66 (t, J=6.6 Hz, 1H), 7.68-7.70 (m, 2H), 7.78-7.80 (d, J=7.2 Hz, 1H), 7.87-7.89 (d, J=8.0 Hz, 1H), 8.11-8.16 (m, 2H), 8.66-8.67 (d, J=4.8 Hz, 1H), 8.74-8.76 (d, J=5.6 Hz, 1H); LC-MS (ESI) m/z: 342(M+1)+.

reactant | methyl 4-oxo-2,3-di(pyridin-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | O=C1C(C(NC=2C=CC=C(C12)C(=O)OC)C1=NC=CC=C1)C1=NC=CC=C1 | C21H17N3O3
reactant | ethyl 4-oxo-2,3-di(pyridin-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.19 mmol, 68 mg | O=C1C(C(NC=2C=CC=C(C12)C(=O)OCC)C1=NC=CC=C1)C1=NC=CC=C1 | C22H19N3O3
reactant | hydrazine monohydrate | 7 mL | O.NN
product | 8,9-di(pyridin-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 24 mg, yield 37% | N1=C(C=CC=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=NC=CC=C1 | C20H15N5O
